US09212155B2
A crude solution of 1-(2-bromo-1,1-dimethylethoxy)-4-chlorobenzene (60.3 mmol) in dimethyl sulfoxide (60 mL) is treated with sodium cyanide (180.7 mmol). The reaction mixture is heated to 95 degrees Celsius overnight under nitrogen. The reaction mixture is transferred into a separatory funnel using brine (150 mL) and chloroform (300 mL). The reaction mixture is equilibrated and the aqueous layer is removed. The aqueous layer is extracted an additional two times with chloroform (2×300 mL). The combined organic extracts are dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure to afford 3-(4-chlorophenoxy)-3-methylbutyronitrile. This crude material is used in the next step (hydrolysis of the nitrile into the corresponding amide) without further purification. [Alternatively, the corresponding carboxylic acid can be obtained from this material by acid hydrolysis (e.g., using sulfuric acid).]

reactant | 1-(2-bromo-1,1-dimethylethoxy)-4-chlorobenzene | 60.3 mmol | BrCC(OC1=CC=C(C=C1)Cl)(C)C | C10H12BrClO
reactant | sodium cyanide | 180.7 mmol | [C-]#N.[Na+]
reactant | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
solvent | brine | 150 mL | [Cl-].[Na+].O
product | 3-(4-chlorophenoxy)-3-methylbutyronitrile | ClC1=CC=C(OC(CC#N)(C)C)C=C1 | C11H12ClNO
